US06426345B1
1N aqueous solution of sodium hydroxide (2 ml) was added to a solution of 2-benzyl-4-(3-methoxycarbonylmethylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (213 mg) in methanol (4 ml) and 1,4-dioxane (2 ml). After stirred at room temperature for 1 hour, the mixture was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulfate and concentrated to give 2-benzyl-4-(3-carboxymethylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (163 mg) as powder.

reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | 2-benzyl-4-(3-methoxycarbonylmethylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 213 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)CC(=O)OC)N=CC=C2 | C23H19N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-benzyl-4-(3-carboxymethylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 163 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)CC(=O)O)N=CC=C2 | C22H17N3O3
